US08871753B2
Step C. tert-Butyl (5-bromo-2-methyl-4-morpholin-4-ylphenyl)carbamate
5-Bromo-2-methyl-4-morpholin-4-ylaniline (550 mg, 2.0 mmol) was stirred in ethanol (15 mL) and di-tert-butyldicarbonate (440 mg, 2.0 mmol) was added. The mixture was stirred for 16 hours and evaporated. Purification by silica gel chromatography gave the desired compound (523 mg, 70%). LCMS for C16H24BrN2O3 (M+H)+: m/z=371.0.

reactant | 5-Bromo-2-methyl-4-morpholin-4-ylaniline | 2.0 mmol, 550 mg | BrC=1C(=CC(=C(N)C1)C)N1CCOCC1 | C11H15BrN2O
reactant | di-tert-butyldicarbonate | 2.0 mmol, 440 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | tert-Butyl (5-bromo-2-methyl-4-morpholin-4-ylphenyl)carbamate | 523 mg, 70% | BrC=1C(=CC(=C(C1)NC(OC(C)(C)C)=O)C)N1CCOCC1 | C16H23BrN2O3
